US04062965
a. Preparation of 1-n-hexadecyl-2-n-propyl-3-n-octylimidazole bromide
1 mole of 1-n-hexadecyl-2-n-propylimidazole and 1.2 moles of n-octyl bromide are heated together at 150° C for 5 hours. Then the unreacted n-octyl bromide is distilled off and the residue is washed with ether.

reactant | 1-n-hexadecyl-2-n-propylimidazole | 1 mole | C(CCCCCCCCCCCCCCC)N1C(=NC=C1)CCC | C22H42N2
reactant | n-octyl bromide | 1.2 moles | C(CCCCCCC)Br | C8H17Br
product | 1-n-hexadecyl-2-n-propyl-3-n-octylimidazole bromide | [Br-].C(CCCCCCCCCCCCCCC)N1C(N(C=C1)CCCCCCCC)CCC | InChI=1S/C30H60N2.BrH/c1-4-7-9-11-13-14-15-16-17-18-19-20-22-24-27-32-29-28-31(30(32)25-6-3)26-23-21-12-10-8-5-2;/h28-30H,4-27H2,1-3H3;1H/p-1
